US05728835
4-Methoxymethyl-N-(2-methoxyphenyl)benzamide
4-Chloromethyl-N-(2-methoxyphenyl)benzamide (138 mg, 0.50 mmol) was dissolved in a methanol-THF (1:1) mixture solution (6 ml) to which was subsequently added 10% sodium hydroxide aqueous solution (3 ml) at room temperature. After 14 hours of stirring at the same temperature, the reaction solution was subjected to 3 hours of ultrasonic treatment. After removing the organic solvent by evaporation, the resulting residue was extracted with methylene chloride and dried on anhydrous magnesium sulfate. After removing the solvent by evaporation, the resulting colorless oily material was purified by silica gel column chromatography (ether:hexane=1:2) to obtain 126 mg (92.9%) of the title compound in the form of colorless oil.

reactant | 4-Chloromethyl-N-(2-methoxyphenyl)benzamide | 0.50 mmol, 138 mg | ClCC1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1 | C15H14ClNO2
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | methanol THF | CO.C1CCOC1
product | 4-Methoxymethyl-N-(2-methoxyphenyl)benzamide | 126 mg, 92.9% | COCC1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1 | C16H17NO3
